US04466980
4(RS)-t-butyldimethylsilyloxy-2-cyclopentenone (2.12 g; 10 mmoles) was dissolved in 25 ml of methanol. The solution was cooled to 0° C., and 30% aqueous hydrogen peroxide (5 ml; 45 mmoles) was added. Several drops of a 2N aqueous solution of sodium hydroxide were added, and the mixture was stirred for 30 minutes. The methanol was distilled off under reduced pressure. Water was added to the residue and the mixture was extracted with ether. The extract was dried over magnesium sulfate, and concentrated under reduced pressure to give 4(RS)-t-butyldimethylsilyloxy-2,3-epoxycyclopentanone as a crude product. The crude product was dissolved in 20 ml of methanol, and a solution of 1.62 g (10 mmoles) of methyl 6-mercaptohexanoate in 10 ml of methanol was added. Furthermore 1 ml of triethylamine was added. The mixture was stirred at room temperature for 18 hours in an atmosphere of nitrogen. After the reaction, the reaction mixture was concentrated under reduced pressure. The residue was chromatographed on a silica gel column using hexane/ethyl acetate (6/1) as an eluent to give 2.24 g (6.02 mmoles; 60.2%) of 4(RS)-t-butyldimethylsilyloxy-2-(5-methoxycarbonylpentylthio)-2-cyclopentenone.

reactant | 4(RS)-t-butyldimethylsilyloxy-2-cyclopentenone | 10 mmoles, 2.12 g | [Si](C)(C)(C(C)(C)C)OC1C=CC(C1)=O | C11H20O2Si
reactant | hydrogen peroxide | 45 mmoles, 5 ml | OO | H2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 4(RS)-t-butyldimethylsilyloxy-2,3-epoxycyclopentanone | [Si](C)(C)(C(C)(C)C)OC1C2C(C(C1)=O)O2 | C11H20O3Si
